US05663200
2e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(p-cyano-phenyl)methyl]hexanoic acid
In analogy with Example 1j), 0.62 g of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(p-cyano-phenyl)methyl]hexanoic acid in 6.2 ml of DMF is silylated with 0.98 g of tert-butyldimethylchlorosilane and 0.79 g of imidazole. Hydrolysis of the silyl ester function with 1.2 g of potassium carbonate in 31 ml of methanol/THF/water, 3:1:1, yields the title compound, after acidifying with citric acid solution and extracting with ethyl acetate: TLC Rf (D)=0.29; FAB-MS (M+H)+ =553.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(p-cyano-phenyl)methyl]hexanoic acid | 0.62 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C#N)O)CC1=CC=CC=C1 | C25H30N2O5
reactant | tert-butyldimethylchlorosilane | 0.98 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 0.79 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6.2 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 31 ml | CO.C1CCOC1.O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(p-cyano-phenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C#N)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C31H44N2O5Si
